US06992188B1
1-(1-Ethylpropyl)-3,6-dimethyl-4-(2,4,6-trimethylphenoxy)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
A solution of 1-(1-ethylpropyl)-6-methyl-4-(2,4,6-trimethylphenoxy)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one (100 mg, 0.28 mmol) in 5 ml of dry THF was treated with lithium bis(trimethylsilyl)amide (0.31 ml, 1 M in THF, 0.31 mmol) at −78° C. After 20 min, the mixture was quenched with 1 ml of methyl iodide and stirred at room temperature for 1 hour. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 110 mg of an off-white solid which was recrystallized from isopropyl ether to give white crystals. Mp 152–154° C.; 1H NMR (CDCl3) δ 6.91 (s, 2H), 6.57 (s, 1H), 4.18 (m, 1H), 3.73 (s, 3H), 2.32 (s, 3H), 2.27 (s, 3H), 2.12 (s, 6H), 1.9–2.1 (m, 2H), 1.7–1.9 (m, 2H), 0.88 (t, 6H) ppm.

reactant | 1-(1-ethylpropyl)-6-methyl-4-(2,4,6-trimethylphenoxy)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 0.28 mmol, 100 mg | C(C)C(CC)N1C(NC=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C)=O | C21H27N3O2
reactant | lithium bis(trimethylsilyl)amide | 0.31 mmol, 1 M, 0.31 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(1-Ethylpropyl)-3,6-dimethyl-4-(2,4,6-trimethylphenoxy)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 110 mg | C(C)C(CC)N1C(N(C=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C)C)=O | C22H29N3O2
